US07119207B2
(1,1-Dimethyl-4-nitro-but-3-enyl)-carbamic acid tert-butyl ester
To (3-Hydroxy-1,1-dimethyl-4-nitro-butyl)-carbamic acid tert-butyl ester (2.00 g, 7.6 mmol) and triethylamine (2.73 g, 27.0 mmol) in 50 mL CH2Cl2 at −10° C. was added dropwise over 5 min. methanesulfonyl chloride. The mixture was warmed to rt for 1 h, and then was diluted with water and extracted with CH2Cl2 (3×30 mL). The extracts were washed sequentially with 1% HCl, water and brine and were dried over MgSO4 and concentrated. Silica gel chromatography (10:1 hexane/EtOAc) gave 1.07 g (60%) of a colorless oil: 1H NMR (300 MHz, CD3OD) d 7.1–7.4 (comp, 2H), 2.72 (d, 2H, J 7.5 Hz), 1.46(s, 9H), 1.31 (s, 6H).

reactant | (3-Hydroxy-1,1-dimethyl-4-nitro-butyl)-carbamic acid tert-butyl ester | 7.6 mmol, 2.00 g | C(C)(C)(C)OC(NC(CC(C[N+](=O)[O-])O)(C)C)=O | C11H22N2O5
reactant | triethylamine | 27.0 mmol, 2.73 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (1,1-Dimethyl-4-nitro-but-3-enyl)-carbamic acid tert-butyl ester | 1.07 g, 60% | C(C)(C)(C)OC(NC(CC=C[N+](=O)[O-])(C)C)=O | C11H20N2O4
